US07265227B2
N-benzoyl-N′-[3-[4-(3,4-dichlorophenoxy)-1-piperidinyl]propyl]-sulfamide (an example of a compound of formula (Ib))
4-(3,4-Dichlorophenoxy)-1-piperidineethanamine (0.16 g) was dissolved in dichloromethane (2 ml) and triethylamine (88 μl) was added. Benzoylsulfamoyl chloride (0.13 g) was added and the solution was stirred for 16 h. The solvent was evaporated and the residue was purified by HPLC (ammonium acetate: acetonitrile 95% to 5% aq) to give the title compound (6 mg).

reactant | 4-(3,4-Dichlorophenoxy)-1-piperidineethanamine | 0.16 g | ClC=1C=C(OC2CCN(CC2)CCN)C=CC1Cl | C13H18Cl2N2O
reactant | triethylamine | 88 μl | C(C)N(CC)CC | C6H15N
reactant | Benzoylsulfamoyl chloride | 0.13 g | C(C1=CC=CC=C1)(=O)NS(=O)(=O)Cl | C7H6ClNO3S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-benzoyl-N′-[3-[4-(3,4-dichlorophenoxy)-1-piperidinyl]propyl]-sulfamide | 6 mg | C(C1=CC=CC=C1)(=O)NS(=O)(=O)NCCCN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl | C21H25Cl2N3O4S
